US07667041B2
To a DMF (2.0 mL) solution of 4-fluoro-3-trifluoromethylbenzaldehyde (400 mg), potassium carbonate (414 mg) and imidazole (136 mg) were added one by one, and the reaction solution was agitated at 80° C. for 6 hours. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane:ethyl acetate 3:1→ethyl acetate) and 13.7 mg of 4-(1H-imidazol-1-yl)-3-trifluoromethylbenzaldehyde was obtained. Next, malonic acid (11.0 mg) and piperidine (53.0 mg) were added to an ethanol (1.0 mL) solution of the obtained aldehyde compound (13.0 mg), and the reaction solution was refluxed for 5 hours. Pyridine (2.0 mL) and malonic acid (11.0 mg) were added to the reaction solution, and the reaction solution was refluxed for one and a half hour. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and 15.0 mg of crude carboxylic acid was obtained by condensing under reduced pressure. By the same method as in Example 324, 10.7 mg of the title compound was obtained from the obtained carboxylic acid and 1-aminoindan. The physical properties of the compound are as follows.

reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-3-trifluoromethylbenzaldehyde | 400 mg | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | potassium carbonate | 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(1H-imidazol-1-yl)-3-trifluoromethylbenzaldehyde | 13.7 mg | N1(C=NC=C1)C1=C(C=C(C=O)C=C1)C(F)(F)F | C11H7F3N2O
